US04092311
Ethyl 3-(6-phenyl-3-pyridazinyl)carbazate
A mixture of 15.57 g. of ethyl 3-[6-(p-bromophenyl)-3-pyridazinyl]carbazate, 1.5 g. of 10% palladium on carbon catalyst, 200 ml. of ethanol and 60 ml. of ammonium hydroxide is shaken under 40 lb. of hydrogen pressure for 4 hours with external heating of bottle by means of a heated jacket. The reaction mixture is filtered and the filtrate concentrated to a solid which is washed with water to give 10.1 g. of cream colored crystals. Recrystallization by dissolving in ethanol and diluting with petroleum ether gave white crystals, m.p. 158°-160° C.

reactant | ethyl 3-[6-(p-bromophenyl)-3-pyridazinyl]carbazate | BrC1=CC=C(C=C1)C1=CC=C(N=N1)NNC(=O)OCC | C13H13BrN4O2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 3-(6-phenyl-3-pyridazinyl)carbazate | C1(=CC=CC=C1)C1=CC=C(N=N1)NNC(=O)OCC | C13H14N4O2
